US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-(3-biphenyl-2-yl-prop-2-ynyl)-piperazin-2-one
A solution containing 1-(4-amino-quinazolin-7-ylmethyl)-4-prop-2-ynyl-piperazin-2-one (50 mg, 0.17 mmol), EXAMPLE 283, 2-bromobiphenyl (44 mg, 0.19 mmol), Et3N (69 mg, 0.68 mmol), (Ph3P)4PdCl2 (6 mg, 0.008 mmol), and CuI (1 mg, 0.005 mmol) in anhydrous DMF (2 mL) is warmed at 80° C. for 1 hours. The reaction mixture is cooled to 50° C. and the solvent is removed over 16 h under a stream of nitrogen. The crude residue is purified by flash silica gel chromatography (CH2Cl2 to 10% MeOH CH2Cl2) to afford a colorless gum which is triturated with ethyl alcohol to provide 4 mg (5%) of the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ3.03 (s, 2H), 3.14 (m, 2H), 3.31 (m, 2H), 3.50 (s, 2H), 7.21-7.55 (m, 11H), 7.76 (br s, 2H), 8.18 (d, J=8.6 Hz, 1H), 8.36 (s, 1H) ppm; MS (ion spray): m/z 448 (M+H).

reactant | 1-(4-amino-quinazolin-7-ylmethyl)-4-prop-2-ynyl-piperazin-2-one | 0.17 mmol, 50 mg | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1)CC#C)=O | C16H17N5O
reactant | 2-bromobiphenyl | 0.19 mmol, 44 mg | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | Et3N | 0.68 mmol, 69 mg | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.005 mmol, 1 mg | [Cu]I
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-(3-biphenyl-2-yl-prop-2-ynyl)-piperazin-2-one | 4 mg, 5% | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1)CC#CC1=C(C=CC=C1)C1=CC=CC=C1)=O | C28H25N5O
